US06169107A
Diethyl oxalate, 1.20 g (7.92 mmol), was added dropwise to a suspension of 0.67 g (7.92 mmol) of potassium ethoxide in diethyl ether (50 ml) at room temperature. Subsequently 2.00 g (7.20 mmol) of 3-benzyloxy-6-chloro-2-nitrotoluene was added to the mixture followed by stirring for 4 hours at room temperature. The reaction solution was poured onto 1N hydrochloric acid and the mixture was extracted twice with diethyl ether. The combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 1.60 g (53.5%) of ethyl (3-benzyloxy-6-chloro-2-nitrophenyl)pyruvate.

reactant | Diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | 7.92 mmol, 0.67 g | [O-]CC.[K+]
reactant | 3-benzyloxy-6-chloro-2-nitrotoluene | 7.20 mmol, 2.00 g | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)Cl)C)[N+](=O)[O-] | C14H12ClNO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | ethyl (3-benzyloxy-6-chloro-2-nitrophenyl)pyruvate | 1.60 g, 53.5% | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)Cl)CC(C(=O)OCC)=O)[N+](=O)[O-] | C18H16ClNO6
